US05455273
u) trans-N-(4-chlorobenzoyl)-N-cyclopropyl-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]-cyclohexylamine
from trans-N-(4-chlorobenzoyl)-N-cyclopropyl-4-(4-methylaminomethylphenyl)cyclohexylamine and 3-bromo-1-propanol. Melting point: 118°-123° C.

reactant | trans-N-(4-chlorobenzoyl)-N-cyclopropyl-4-(4-methylaminomethylphenyl)cyclohexylamine | ClC1=CC=C(C(=O)N(C2CC2)[C@@H]2CC[C@H](CC2)C2=CC=C(C=C2)CNC)C=C1 | C24H29ClN2O
reactant | 3-bromo-1-propanol | BrCCCO | C3H7BrO
product | trans-N-(4-chlorobenzoyl)-N-cyclopropyl-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]-cyclohexylamine | ClC1=CC=C(C(=O)N(C2CC2)[C@@H]2CC[C@H](CC2)C2=C(C=C(C=C2)CCCO)CNC)C=C1 | C27H35ClN2O2
